US07498337B2
tert-butyl {[5-(2-fluoro-3-formylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
By a similar operation as in Reference Example 79 and using tert-butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (430 mg), (2-fluoro-3-formylphenyl)boronic acid (252 mg), sodium carbonate (254 mg) and tetrakis(triphenylphosphine)palladium (173 mg), the title compound was obtained as a pale-yellow oil (yield 250 mg, 53%).

reactant | tert-butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 430 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C16H20BrN3O4S
reactant | (2-fluoro-3-formylphenyl)boronic acid | 252 mg | FC1=C(C=CC=C1C=O)B(O)O | C7H6BFO3
reactant | sodium carbonate | 254 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl {[5-(2-fluoro-3-formylphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | FC1=C(C=CC=C1C=O)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C23H24FN3O5S
